US07189873B2
A 80% propargyl bromide solution in toluene (2.1 g, 14.5 mmol) is added slowly at room temperature to a mixture of hydroxy-(4-methoxy-phenyl)-acetic acid N′-(4-hydroxy-3-methoxy-benzyl)-hydrazide (4.0 g, 12 mmol), 30% sodium hydroxide solution (3.5 ml, 14.5 mmol) and catalytic amounts of tetrabutylammonium bromide in 35 ml of dichloromethane. The reaction is stirred for 16 hours at +40° C. Subsequently the mixture is evaporated and the residue is diluted with water and dichloromethane. The phases are separated and the aqueous phase is extracted three times with dichloromethane. The combined organic phase is washed with brine, dried over sodium sulfate and evaporated. The remaining oil is purified by chromatography on silica gel (ethyl acetate/hexane 7:3) to obtain hydroxy-(4-methoxy-phenyl)-acetic acid N′-(3-methoxy-4-prop-2-ynyloxy-benzyl)-hydrazide.

reactant | propargyl bromide | C(C#C)Br | C3H3Br
reactant | toluene | 14.5 mmol, 2.1 g | C1(=CC=CC=C1)C | C7H8
reactant | hydroxy-(4-methoxy-phenyl)-acetic acid N′-(4-hydroxy-3-methoxy-benzyl)-hydrazide | 12 mmol, 4.0 g | OC1=C(C=C(CNNC(C(C2=CC=C(C=C2)OC)O)=O)C=C1)OC | C17H20N2O5
reactant | sodium hydroxide | 14.5 mmol, 3.5 ml | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | hydroxy-(4-methoxy-phenyl)-acetic acid N′-(3-methoxy-4-prop-2-ynyloxy-benzyl)-hydrazide | COC=1C=C(CNNC(C(C2=CC=C(C=C2)OC)O)=O)C=CC1OCC#C | C20H22N2O5
